US09278910B2
Prepared from INT-73. To a stirred solution of methyl 2-((4-cyanobenzyl)amino)acetate INT-73 (1.6 g, 7.83 mmol) in DCM (30 mL) was added di-tert-butyl dicarbonate (2.70 mL, 11.75 mmol) and DMAP (50 mg). After stirring at room temperature for 2 h the reaction mixture was diluted with DCM (100 mL) and washed with brine (200 mL). The organics were dried over MgSO4 and concentrated in vacuo. The crude product was purified by chromatography (DCM/hexanes) to afford 1.35 g (56%) of methyl 2-((tert-butoxycarbonyl)(4-cyanobenzyl)amino)acetate INT-74 as a viscous orange oil.

reactant | methyl 2-((4-cyanobenzyl)amino)acetate | C(#N)C1=CC=C(CNCC(=O)OC)C=C1 | C11H12N2O2
reactant | di-tert-butyl dicarbonate | 11.75 mmol, 2.70 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 50 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-((tert-butoxycarbonyl)(4-cyanobenzyl)amino)acetate | 1.35 g, 56% | C(C)(C)(C)OC(=O)N(CC(=O)OC)CC1=CC=C(C=C1)C#N | C16H20N2O4
